US06348461B1
7-Amino-3,4-dihydro-3-oxo-6-trifluoromethylquinoxaline-2-carboxylic Acid
To a solution of ethyl 7-amino-3,4-dihydro-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate (55.9 mg, 186 μmol) in ethanol (2 ml) was added 1N aqueous solution of potassium hydroxide (446 μl, 446 μmol), and the mixture was refluxed for 1.5 hours. After cooling, solvent was distilled off, water was added and the pH value was brought to 2 with 4N hydrochloric acid. Solvent was distilled off again and small quantity of water was added. The crystals were collected by filtration, washed with water and then air-dried to obtain 24.2 mg of the title compound as dark red powder. Yield 45%.

reactant | ethyl 7-amino-3,4-dihydro-3-oxo-6-trifluoromethylquinoxaline-2-carboxylate | 186 μmol, 55.9 mg | NC1=C(C=C2NC(C(=NC2=C1)C(=O)OCC)=O)C(F)(F)F | C12H10F3N3O3
reactant | potassium hydroxide | 446 μmol, 446 μl | [OH-].[K+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-Amino-3,4-dihydro-3-oxo-6-trifluoromethylquinoxaline-2-carboxylic Acid | 24.2 mg, Yield 45% | NC1=C(C=C2NC(C(=NC2=C1)C(=O)O)=O)C(F)(F)F | C10H6F3N3O3
